### PR TITLE
[Merged by Bors] - chore: golf Polynomial.Degree.Definitions

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Polynomial/Degree/Definitions.lean [hunk 1]
```diff
@@ -140,18 +140,9 @@ theorem degree_eq_iff_natDegree_eq {p : R[X]} {n : ℕ} (hp : p ≠ 0) :
...
-    rintro rfl
-    rw [degree_zero] at H
-    exact Option.noConfusion H
-  · intro H
-    rwa [degree_eq_iff_natDegree_eq]
-    rintro rfl
-    rw [natDegree_zero] at H
-    rw [H] at hn
-    exact lt_irrefl _ hn
+  obtain rfl|h := eq_or_ne p 0
```
Comment (tb65536) [inline Mathlib/Data/Polynomial/Degree/Definitions.lean:143]: I'm not sure what the correct style is, but I've always been putting spaces around `|`.
```suggestion
  obtain rfl | h := eq_or_ne p 0
```

Comment (jcommelin) [reply Mathlib/Data/Polynomial/Degree/Definitions.lean:143]: Both styles occur.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
